US05034417
A mixture of 4'-cyano-2'-(2,4-difluorophenylthio)methanesulfonanilide (4.8 g) and Raney's Nickel (4.8 g) in 75% formic acid (130 ml) was stirred and refluxed for 2 hours. The mixture was filtered and the filtrate was concentrated to dryness. The residue was dissolved in chloroform, washed with an aqueous solution of sodium bicarbonate, dried and evaporated. The oily residue (5 g) was purified by column chromatography on silica gel (100 g) eluting with a mixture of toluene and ethyl acetate (5:1) to give crystals of 2'-(2,4-difluorophenylthio)-4'-formylmethanesulfonanilide (3.0 g).

reactant | 4'-cyano-2'-(2,4-difluorophenylthio)methanesulfonanilide | 4.8 g | C(#N)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=C(C=C1)F)F | C14H10F2N2O2S2
reactant | formic acid | 130 ml | C(=O)O | CH2O2
catalyst | Raney's Nickel | 4.8 g | [Ni] | Ni
product | 2'-(2,4-difluorophenylthio)-4'-formylmethanesulfonanilide | 3.0 g | FC1=C(C=CC(=C1)F)SC1=C(NS(=O)(=O)C)C=CC(=C1)C=O | C14H11F2NO3S2
